US07825256B2
Methylamine (35 mL of a 25 wt % solution in THF) was added all at once to a solution of 1-tert-butyl 3-ethyl 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)pyrrolidine-1,3-dicarboxylate (650 mg, 1.6 mmol) in THF (30 mL). The reaction mixture was heated to 60° C. for a period 12 h then cooled to rt. Water (50 mL) was added and the resulting solution was extracted with EtOAc (3×10 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated under vacuum to afford tert-butyl 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-(methylcarbamoyl)pyrrolidine-1-carboxylate (620 mg) as yellow oil.

reactant | Methylamine | CN | CH5N
reactant | 1-tert-butyl 3-ethyl 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)pyrrolidine-1,3-dicarboxylate | 1.6 mmol, 650 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1C(=O)OCC)C(=O)OC(C)(C)C)C | C20H27N5O4
reactant | Water | 50 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(2-(1H-imidazol-1-yl)-6-methylpyrimidin-4-yl)-3-(methylcarbamoyl)pyrrolidine-1-carboxylate | 620 mg | N1(C=NC=C1)C1=NC(=CC(=N1)C1N(CCC1C(NC)=O)C(=O)OC(C)(C)C)C | C19H26N6O3
